US04824846
2.21 g (6 mmol) of 1-(4-hydroxy-3,5-dimethylphenyl)piperazine dihydrobromide, 1.14 g (6.25 mmol) of 2-chloro-5-trifluoromethylpyridine and 1.245 g (9 mmol) of K2CO3 in 27 ml of absolute DMF were reacted by the same procedure as described in Example 20. The mixture was subsequently stirred for 3.5 hours at 90° C. After evaporation of the DMF, the residue was mixed with water, and the oily crystalline material produced during this was filtered off under suction, dissolved in methanol and clarified using activated charcoal. After filtration, a little water was added to the filtrate, a crystalline precipitate being produced. This was filtered off under suction (yield 1.63 g) and chromatographed as described in Example 15 on a silica gel/CH2Cl2 column (diameter 2.0 cm, height 22 cm). In this fashion, 1.24 g (=59% yield) of 1-(4-hydroxy-3,5-dimethylphenyl)-4-(5-trifluoromethylpyrid-2-yl)piperazine, melting point 143°-44° C., were obtained;

reactant | 1-(4-hydroxy-3,5-dimethylphenyl)piperazine dihydrobromide | 6 mmol, 2.21 g | Br.Br.OC1=C(C=C(C=C1C)N1CCNCC1)C
reactant | 2-chloro-5-trifluoromethylpyridine | 6.25 mmol, 1.14 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | K2CO3 | 9 mmol, 1.245 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 27 ml | CN(C)C=O | C3H7NO
product | 1-(4-hydroxy-3,5-dimethylphenyl)-4-(5-trifluoromethylpyrid-2-yl)piperazine | 1.24 g, 59% yield | OC1=C(C=C(C=C1C)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)C | C18H20F3N3O
